US05834506
Toluene-4-thiosulfonic acid S-{2-tert-butyl-4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-methyl-phenyl}ester
To a round bottom flask equipped with a magnetic stirrer and an addition funnel were added tosyl bromide (6.07 g, 26.0 mmol), CCl4 (70 mL) and NEt3 (3.59 mL, 26.0 mmol), and this solution was cooled to 0° C. The 2-tert-butyl-4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-methyl-benzenethiol material prepared in Example OOO (4.6 g, 13.0 mmol) was dissolved in CCl4 (70 mL) and added dropwise to the tosyl bromide solution. The addition was complete in 3.5 hours, at which time the ice bath was removed and the reaction stirred at room temperature overnight. The mixture was diluted with CH2Cl2 and washed with saturated NH4Cl and dried (MgSO4). The solvent was then evaporated and the residue was submitted to flash chromatography (1:1 CH2Cl2 :hexane) to yield the title compound. 1H NMR (CDCl3) δ 0.04 (s, 6 H), 0.85 (s, 9 H), 1.20 (s, 9 H), 2.01 (s, 3 H), 2.37 (s, 3 H), 3.93 (t, 2 H), 3.99 (t, 2 H), 6.82 (s, 1 H), 7.0 (s, 1 H), 7.19 (d, 2 H), 7.44 (d, 2 H).

reactant | tosyl bromide | 26.0 mmol, 6.07 g | S(=O)(=O)(C1=CC=C(C)C=C1)Br | C7H7BrO2S
reactant | NEt3 | 26.0 mmol, 3.59 mL | CCN(CC)CC | C6H15N
reactant | 2-tert-butyl-4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-methyl-benzenethiol | C(C)(C)(C)C1=C(C=C(C(=C1)OCCO[Si](C)(C)C(C)(C)C)C)S | C19H34O2SSi
solvent | CCl4 | 70 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 70 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Toluene-4-thiosulfonic acid S-{2-tert-butyl-4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-methyl-phenyl}ester | C(C)(C)(C)C1=C(C=C(C(=C1)OCCO[Si](C)(C)C(C)(C)C)C)SS(=O)(=O)C1=CC=C(C=C1)C | C26H40O4S2Si
